data/mechanisms/records/IMS9-EQ9.33.json
{"mechanism_id": "IMS9-EQ9.33", "species": [{"species_id": "distonic_ester_fragment", "mapped_smiles": "[CH3:4][CH2:3][C:2]([CH3:5])[C:1]([OH:6])=[O+:7][CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "conjugated_ee_ion", "mapped_smiles": "[CH2:3]=[C:2]([CH3:5])[C:1]([OH:6])=[O+:7][CH3:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_ester_fragment"]}, {"state_id": "state_products", "species_ids": ["conjugated_ee_ion", "methyl_radical"]}], "steps": [{"step_id": "step_beta_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_beta_cleavage", "support_type": "textbook_proposed", "locator": {"page": 254, "equation": "9.33", "figure": null, "panel": null, "section": "9.4 Esters, 'Aliphatic methyl esters' (the one-line scheme labelled alpha)"}, "confidence": 0.6, "curator_note": "ARC COUNT (convention D), measured by me at 14x on the native 1760x2560 scan: the precursor carries EXACTLY TWO arcs, both single-barbed fishhooks, and their heads CONVERGE on the same empty gap between the CH2 and the alpha carbon -- i.e. on the FORMING C=C pi bond. Arc 1 (the long one) has its tail descending onto the R-CH2 sigma bond; arc 2 (the short one) has its tail at the radical dot on the alpha carbon. Moves <1,2> are those two arcs. Move <3> is NOT drawn: the second R-CH2 electron leaving on R, which is what actually produces the 'R.' the page prints as the first product. The reaction arrow itself is a plain labelled 'alpha' arrow with no arc. This is the canonical radical-site beta-scission (the book's 'secondary beta-bond cleavage'), and the product is conjugated -- the new C=C sits next to the C=O+ -- which is exactly the 'conjugated EE+ ion' the prose promises: the ion is EVEN-electron (charge +1, no unpaired electron) while the precursor was odd-electron. GENERIC SCHEME -- THE INSTANTIATION IS THE CURATOR'S AND IS SPELLED OUT. Equation 9.33 is printed as a single condensed line at the bottom of printed p254 carrying THREE generic labels: 'R-CH2C(.)R'a-C(OH)=+OR --alpha--> R. + CH2=CR'a-C(OH)=+OR'. Nothing is named, no m/z is printed and no compound is drawn out. The licensing prose is three lines above it on the SAME page: 'If an R_alpha group is ethyl or larger, secondary beta-bond cleavage can give a conjugated EE+ ion (Equations 9.33, 8.79).' That sentence is what constrains the choice: the group whose bond cleaves, R-CH2-, must be ETHYL OR LARGER, so R = CH3 is the minimum. The subsection is 'Aliphatic methyl esters', so the ester alkyl OR is taken as OCH3, and the second alpha substituent R'a -- printed as a group label, not as an H -- is taken as the smallest alkyl, CH3. INSTANTIATION CHOSEN: precursor CH3CH2-C(.)(CH3)-C(OH)=O(+)CH3, C6H12O2+., curator-computed 116.0832; product ion CH2=C(CH3)-C(OH)=O(+)CH3, C5H9O2+, 101.0597; neutral CH3. (15.0235). EVERY mass in this record follows from that choice, not from the page. A reviewer preferring the cross-referenced Equation 8.79 literally would set R'a = H (precursor C5H10O2+. 102.0675, ion C4H7O2+ 87.0441); the graph would be the same shape. ATOM MAPS: 1 = the carbonyl carbon (bearing OH and the charged ester oxygen), 2 = the alpha carbon (the radical site), 3 = the CH2, 4 = R (the methyl expelled), 5 = R'a, 6 = the hydroxyl oxygen, 7 = the charged ester oxygen, 8 = its methyl. WHAT THE PRECURSOR IS: not a molecular ion. It is an ODD-ELECTRON DISTONIC FRAGMENT -- charge drawn on the ester oxygen as '=+OR', radical drawn as a dot on the alpha carbon -- i.e. the ion that arrives from the delta-/epsilon-hydrogen migration plus 1,4-hydrogen shift described in the prose immediately above (and it is the charge-on-the-ester-oxygen partner of the resonance pair IMS9-EQ9.32a stores for its m/z 74 ion). ms_context.adduct is therefore null, NOT '[M]+.' (convention G)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ion", "species_id": "conjugated_ee_ion", "step_id": "step_beta_cleavage", "observed_mz": 101.0597, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
